US04806558
Ethyl 4-[(5,6,7,8-Tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-ethynyl]-benzoate
3.0 g (9 millimoles) of 4-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-ethynyl]-benzoic acid, 4 g (30 millimoles) of potassium carbonate and 2.9 g (18.9 millimoles) of iodoethane in 27 ml of butan-2-one were refluxed until conversion was complete (monitored by thin layer chromatography). When the mixture had cooled, the solid was filtered off, the filtrate was evaporated down and the residue was recrystallized from methanol to give 2.1 g (65%) of the title compound of melting point 137°-138° C.

reactant | 4-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-ethynyl]-benzoic acid | 9 millimoles, 3.0 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C#CC1=CC=C(C(=O)O)C=C1)C | C23H24O2
reactant | potassium carbonate | 30 millimoles, 4 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 18.9 millimoles, 2.9 g | ICC | C2H5I
solvent | butan-2-one | 27 ml | CC(CC)=O | C4H8O
product | Ethyl 4-[(5,6,7,8-Tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-ethynyl]-benzoate | 2.1 g, 65% | CC1(C=2C=CC(=CC2C(CC1)(C)C)C#CC1=CC=C(C(=O)OCC)C=C1)C | C25H28O2
